US06310095B1
N-[4-(N-(Fluoren-9-yl)aminomethyl)-2-(2-methylphenyl)benzoyl]methionine methyl ester
The desired compound was prepared using the method described in Example 403H starting with N-[4-formyl-2-(2-methylphenyl)benzoyl]methionine methyl ester, prepared as in Example 403G, and 9-aminofluorene hydrochloride salt m/e (ESI) 551 (MH+)

reactant | N-[4-formyl-2-(2-methylphenyl)benzoyl]methionine methyl ester | COC([C@@H](NC(C1=C(C=C(C=C1)C=O)C1=C(C=CC=C1)C)=O)CCSC)=O | C21H23NO4S
reactant | 9-aminofluorene hydrochloride salt | Cl.NC1C2=CC=CC=C2C=2C=CC=CC12
product | N-[4-(N-(Fluoren-9-yl)aminomethyl)-2-(2-methylphenyl)benzoyl]methionine methyl ester | COC([C@@H](NC(C1=C(C=C(C=C1)CNC1C2=CC=CC=C2C=2C=CC=CC12)C1=C(C=CC=C1)C)=O)CCSC)=O | C34H34N2O3S
